US07691869B2
To a solution of the title D compound of Example 1, 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate (0.06 g, 0.165 mmol) in dry DMF (5 mL), the title B compound, 1-[(3-methylbenzo[b]thiophen-2-yl)methyl]piperazine dihydrochloride (0.33 mmol) and 0.06 mL of DIEA are added, and the solution is stirred at 100° C. for 5 h. The reaction mixture is cooled to RT, and the solvent is removed under reduced pressure. To the residue, acetonitrile is added and the solution is stirred at 60° C. for 0.5 h. The solution is then cooled to RT, and the resulting solids are collected by filtration to give 2-(furan-2-yl)-7-(2-(4-((3-methylbenzo[b]thiophen-2-yl)methyl)piperazin-1-yl)ethyl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine: LC/MS (M+1=513.2). 1H NMR (DMSO-d6, 400 MHz) δ 2.32 (s, 3H), 2.50 (m, 8H), 2.69 (t, 2H, J=6.4 Hz), 3.72 (s, 2H), 4.23 (t, 2H, J=6.4 Hz), 6.58 (d, 1H, J=3.2 Hz), 6.71 (m, 1H), 7.15 (d, 1H, J=3.6 Hz), 7.18 (d, 1H, J=3.2 Hz), 7.28-7.38 (m, 2H), 7.50 (br s, 2H), 7.68 (d, 1H, J=7.6 Hz), 7.85 (d, 1H, J=7.6 Hz), 7.92 (d, 1H, J=0.8 Hz).

reactant | 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate | 0.165 mmol, 0.06 g | CS(=O)(=O)OCCN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3 | C14H14N6O4S
reactant | 1-[(3-methylbenzo[b]thiophen-2-yl)methyl]piperazine dihydrochloride | 0.33 mmol | Cl.Cl.CC=1C2=C(SC1CN1CCNCC1)C=CC=C2
reactant | DIEA | 0.06 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(furan-2-yl)-7-(2-(4-((3-methylbenzo[b]thiophen-2-yl)methyl)piperazin-1-yl)ethyl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5-amine | O1C(=CC=C1)C1=NN2C(=NC3=C(C2=N1)C=CN3CCN3CCN(CC3)CC3=C(C1=C(S3)C=CC=C1)C)N | C27H28N8OS
